US06699992B2
29.4 g of ethyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0.088 mol), 160 ml of acetate acid, 100 ml of water and 18 ml of concentrated sulfuric acid were stirred at 100-110° C. for 40 minutes. The resulting mixture was cooled and filtered. The precipitate was re-crystallized from chloroform-ethanol to give 23.8 g of 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.0775 mol) in 88.1% yield, mp 288-293° C.

reactant | ethyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.088 mol, 29.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)Cl)F)=O)C(=O)OCC | C16H15ClFNO4
reactant | acetate | 160 ml | C(C)(=O)[O-]
reactant | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.0775 mol, 23.8 g, 88.1% yield | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)Cl)F)=O)C(=O)O | C14H11ClFNO4
